US05250712
20 ml of acetic anhydride is instilled at room temperature in 10.0 g of 1β,15α-dihydroxy-1α-methyl-5α-androstane-3,17-dione in 40 ml of pyridine. The reaction mixture is stirred into ice/water after 2.5 hours. The precipitated product is suctioned off, dissolved in ethyl acetate and washed neutral with water. The crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient. 8.6 g of 15α-acetoxy-1β-hydroxy-1α-methyl-5α-androstane-3,17-dione is obtained. Melting point 170.0° C.

reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1β,15α-dihydroxy-1α-methyl-5α-androstane-3,17-dione | 10.0 g | O[C@@]1(CC(C[C@@H]2CC[C@H]3[C@@H]4[C@H](CC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)O)=O)C | C20H30O4
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 15α-acetoxy-1β-hydroxy-1α-methyl-5α-androstane-3,17-dione | 8.6 g | C(C)(=O)O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CC[C@H]3CC(C[C@@]([C@]3(C)[C@H]1CC2)(C)O)=O)=O | C22H32O5
